US07459448B2
2-(3,4-Dimethoxy-phenylamino)-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepine-10-carboxylic acid (2-pyridin-4-yl-ethyl)-amide (I-48)
In a manner similar to that described for Method N, 2-(3,4-dimethoxy-phenylamino)-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepine-10-carboxylic acid (I-43) and 2-(pyridin-4-yl)ethanamine were converted I-48 (6%): HRMS Calcd. for C28H26N6O4: 551.2093, Found 511.2098.

reactant | 2-(3,4-dimethoxy-phenylamino)-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepine-10-carboxylic acid | COC=1C=C(C=CC1OC)NC=1N=CC2=C(C3=C(NC(C2)=O)C=CC(=C3)C(=O)O)N1 | C21H18N4O5
reactant | 2-(pyridin-4-yl)ethanamine | N1=CC=C(C=C1)CCN | C7H10N2
product | 2-(3,4-Dimethoxy-phenylamino)-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepine-10-carboxylic acid (2-pyridin-4-yl-ethyl)-amide | N1=CC=C(C=C1)CCNC(=O)C1=CC2=C(NC(CC3=C2N=C(N=C3)NC3=CC(=C(C=C3)OC)OC)=O)C=C1 | C28H26N6O4
